US09193693B2
Step 3. 3-(Cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate (200 mg, 0.55 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (110.8 mg, 2.77 mmol, 5.00 equiv) in water (3 mL) dropwise with stirring. The resulting solution was stirred for 3 hs at 50° C. in an oil bath. The pH value of the aqueous solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting solids were collected by filtration and washed with ether. This resulted in 56 mg (29%) of 3-(cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate | 0.55 mmol, 200 mg, 1.00 equiv | C1(CCCC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)C | C22H23N3O2
reactant | sodium hydroxide | 2.77 mmol, 110.8 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 3-(Cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylic acid | C1(CCCC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1)C | C21H21N3O2
